US08470847B2
7.2: (±)-2-Amino-7-(3-cyclopropyl-3-hydroxy-4-methoxybut-1-yn-1-yl)-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
A suspension of 0.47 g (1.68 mmol) of 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide in a mixture of 8.4 ml of dimethylformamide and 3 ml of triethylamine is placed in a 10 ml microwave tube. This suspension is sparged with argon for 10 minutes and then 0.433 g of (±)-2-cyclopropyl-1-methoxybut-3-yn-2-ol (3.09 mmol), 0.032 g of CuI (0.17 mmol) and 0.059 g of bis(triphenylphosphine) palladium(II)dichloride (0.08 mmol) are successively added.

reactant | 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 1.68 mmol, 0.47 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
reactant | (±)-2-cyclopropyl-1-methoxybut-3-yn-2-ol | 3.09 mmol, 0.433 g | C1(CC1)C(COC)(C#C)O | C8H12O2
solvent | dimethylformamide | 8.4 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.17 mmol, 0.032 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II)dichloride | 0.08 mmol, 0.059 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-7-(3-cyclopropyl-3-hydroxy-4-methoxybut-1-yn-1-yl)-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC(COC)(O)C1CC1)CC | C20H24N4O4
